US04562257
Preparation of 2-[(1-carbamoyl-1,2-dimethylpropyl)-carbamoyl]-3-quinolinecarboxylic acid
The aminoamide (24.25 mmol) is added over a two hour period to a solution of 2,3-quinolinedicarboxylic anhydride (20.06 mmol) in pyridine (100 mL) while maintaining the reaction mixture at room temperature. The mixture is allowed to stir at room temperature for one-half hour. Analysis of the isomer distribution of the reaction products by high performance liquid chromatography shows an 8.9/1 ratio of the desired 2-carbamoyl-3-quinolinecarboxylic acid.

reactant | aminoamide | 24.25 mmol | N[NH-]
reactant | 2,3-quinolinedicarboxylic anhydride | 20.06 mmol | N1=C2C(=CC3=CC=CC=C13)C(=O)OC2=O | C11H5NO3
reactant | 2-carbamoyl-3-quinolinecarboxylic acid | C(N)(=O)C1=NC2=CC=CC=C2C=C1C(=O)O | C11H8N2O3
reactant | pyridine | 100 mL | N1=CC=CC=C1 | C5H5N
product | 2-[(1-carbamoyl-1,2-dimethylpropyl)-carbamoyl]-3-quinolinecarboxylic acid | C(N)(=O)C(C(C)C)(C)NC(=O)C1=NC2=CC=CC=C2C=C1C(=O)O | C17H19N3O4
